US06916807B2
Preparation D: 6-(4-Iodo-phenoxy)-pyridin-3-ylamine
2-(4-Iodo-phenoxy)-5-nitro-pyridine (50 grams, 146.1 mmol) and 4-iodo-phenol (96.5 grams, 438.6 mmol) were dissolved in tetrahydrofuran (500 mL) and added to a Parr shaker flask which contained Raney nickel (30 grams of a 50% slurry in water). The above mixture was shaken under hydrogen gas (50 psi) for 2 hours, at which time uptake of hydrogen gas had ceased and thin liquid chromatography indicated complete consumption of starting material. The Raney nickel was then removed by filtration through a pad of celite under nitrogen. The pad was rinsed several times with methylene chloride. The filtrate was diluted with methylene chloride and the organic layer was washed with 1M sodium hydroxide (4×200 mL) and brine (1×200 mL). The organic layer was dried with magnesium sulfate, filtered and concentrated under vacuum to give 42 grams (92%) of the title compound which was used without further purification. MS m/z: ESI+ 313.0 (M+H)+.

reactant | 2-(4-Iodo-phenoxy)-5-nitro-pyridine | 146.1 mmol, 50 grams | IC1=CC=C(OC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C11H7IN2O3
reactant | 4-iodo-phenol | 438.6 mmol, 96.5 grams | IC1=CC=C(C=C1)O | C6H5IO
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | 6-(4-Iodo-phenoxy)-pyridin-3-ylamine | 42 grams, 92% | IC1=CC=C(OC2=CC=C(C=N2)N)C=C1 | C11H9IN2O
